Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Bactrim / Motrin / tramadol / Penicillins
 
Attending: ___
 
Chief Complaint:
Right facial weakness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year old right handed woman with PMH of chronic
left leg deep venous thrombosis since ___ for which her
hematologist has recommended indefinite anticoagulation (she has
previously had elevated beta 2 glycoprotein, but does not hold
diagnosis of APLS), hypertension, hyperlipidemia, prediabetes,
Meniere's disease of the right ear, bilateral sensorineural
hearing loss, and bilateral cataracts who neurology has been
consulted because patient woke up with right facial weakness. 
  
Ms. ___ was normal last night, but woke up this morning and
immediately noticed that she was having problems with moving her
mouth.  Ms. ___ went to the bathroom and noticed that her face
did not look like it normally does.  She, in particular, noticed
that the right-side of her face was drooping.  Ms. ___ tried to
whistle and noticed that it was harder to push air out of her
pursed mouth on the right side compared to the left side.  Ms.
___ does not feel that there is anything wrong with the right
superior quadrant of her face.  She denies altered taste and
hyperacusis from the right ear.  Ms. ___ feels sensation of the
weak part of her face is normal and she is not having trouble
with strength or coordination of her right arm.  Ms. ___ is not
having difficulty with word finding and thinking.  She is not
having difficulty with walking.    

Ms. ___ reports that she has been having a pounding headache 
for
the past two weeks that is bifrontal, but also involves the area
around the right ear and occipital region.  Ms. ___ has
Meniere's disease of the right ear and has been having increased
tinnitus so has been attributing her headache to a possible
symptom of such.  Ms. ___ had a scheduled appointment with her
primary care physician today to discuss her headache as she
normally does not have such, but the right facial weakness was
noticed and she was therefore sent to the emergency department
for assessment.  

 
Past Medical History:
Right Meneire's disease:
She was first diagnosed with Meniere's disease in ___, with
onset of vertigo episodes. She has not had any recent long
episodes of vertigo, but does occasionally get very brief 1 min
episodes of spinning vertigo.  These short episodes are usually
preceded by increased tinnitus in the right ear.  She takes
meclizine prn.  Has not been on diuretic. She used to get aural
fullness and increased tinnitus prior to significant vertigo
episodes. Has constant tinnitus AD. She reports fluctuating
hearing right ear, no fluctuation or hearing problem in left 
ear.
Hypertension: 
Reviewed atrius records, SBP runs 100-120 range  
Hyperlipidemia: 
LDL 96 (___)
Prediabetes:
A1C 6.1% (___) 

 
Social History:
___
Family History:
Ms. ___ reports that her mother had ___ disease.  She
reports strong history of hypertension on both sides of her
family. She lack a history of blood clotting disorders. 

 
Physical Exam:
ADMISSION EXAMINATION
=====================
Temperature: 97.8 
Pulse: 69 
Blood pressure: 142/64 
Respiratory rate: 16 
Oxygen saturation: 98% RA 
POCG:84 

General examination: 
Heart is regular rate and rhythm with no murmurs.  

NIHSS: 1 for right facial droop 

Mental status:  
She is awake, alert, and cooperative with the exam.  She is
attentive, able to say months of the year backwards.  Fund of
knowledge is intact.  She is oriented to place and date. 
Language is fluent.  Memory for recent and remote history is
intact.  
Cranial nerves:  
Pupils are equal and reactive.  Extraocular movements are full. 
Facial sensation symmetric.  No decrease in blink frequency on
the right.  Eyebrows elevate symmetrically.  Right NLFF and
decreased activation of the right side of mouth with speaking. 
Smile symmetric when spontaneous laughter elicited.  Hearing is
intact to finger rub bilaterally.  Palate elevates 
symmetrically.
SCM and trapezius are full strength bilaterally.  Tongue is
midline.  
Motor:  
She moves the right arm slower than the left arm.  She has 
subtle
oribiting around the right arm.  She has right pronation, but no
drift.  She has full power of the right arm to confrontational
testing.  She has mild spasticity of both legs. 
Sensation:  
Pinprick is intact in the hands and feet.  Position sense is
intact in the toes bilaterally.  Romberg is negative. 
Coordination:  
Finger-nose-finger and finger-to-nose are intact without
dysmetria bilaterally.  
Reflexes: 
She has symmetrically brisk reflexes throughout, including
pectoral, prepatellar, and cross-abductor reflexes. Plantar
reflexes mute bilaterally. 
Gait:
Normal narrow based gait.
Labs:
Unrevealing.

DISCHARGE EXAMINATION
=====================
 Vitals: Temp: 98.0 (Tm 98.3), BP: 119/74 (119-142/73-81), HR: 
65 (57-66), RR: 18, O2 sat: 96% (95-97), O2 delivery: Ra, Wt: 
172.18 lb/78.1 kg
 General: awake, cooperative, NAD
 HEENT: NC/AT, no scleral icterus noted, MMM
 Pulmonary: breathing comfortably, no tachypnea or increased WOB
 Cardiac: skin warm, well-perfused
 Abdomen: soft, ND
 Extremities: symmetric, no edema

Neurologic:

-Mental Status: Alert, cooperative, language is fluent with 
intact comprehension. Able to follow both midline and 
appendicular commands. 

-Cranial Nerves: Pupils 3 to 2 mm OD and 4 to 3 mm OS. VFF to 
confrontation. EOMI without nystagmus. Facial sensation intact 
to light touch. Right lower facial weakness with weak eye 
closure and subtle R NLFF, though with symmetric blink rate and 
platysma overactivation. Hearing comparatively diminished to 
finger rub on left, negative HIT. Palate elevates symmetrically. 
___ strength in trapezii bilaterally. Tongue protrudes in 
midline.

-Motor: No pronator drift bilaterally.
   Delt Bic Tri WrE FFl FE IP Quad Ham TA 
 L  5    ___   ___   5    5  5  
 R  5    ___   ___   5    5  5  

-Sensory: Intact to LT throughout. No extinction to DSS.

-DTRs: ___.

-Coordination: No intention tremor or dysmetria on FNF 
bilaterally.

 
Pertinent Results:
___ 06:28AM BLOOD WBC-3.6* RBC-4.64 Hgb-13.5 Hct-41.9 
MCV-90 MCH-29.1 MCHC-32.2 RDW-13.7 RDWSD-44.8 Plt ___
___ 06:28AM BLOOD ___ PTT-42.4* ___
___ 06:28AM BLOOD Glucose-84 UreaN-20 Creat-1.0 Na-144 
K-3.8 Cl-102 HCO3-27 AnGap-15
___ 06:28AM BLOOD ALT-16 AST-18 CK(CPK)-109 AlkPhos-57 
TotBili-0.6
___ 02:52PM BLOOD Lipase-36
___ 02:52PM BLOOD cTropnT-<0.01
___ 01:15PM BLOOD cTropnT-<0.01
___ 06:28AM BLOOD Calcium-9.6 Phos-3.8 Mg-2.4 Cholest-PND
___ 01:00PM BLOOD %HbA1c-5.9 eAG-123
___ 02:52PM BLOOD Triglyc-89 HDL-54 CHOL/HD-3.1 LDLcalc-94
___ 06:28AM BLOOD TSH-PND
___ 06:28AM BLOOD Lyme Ab-PND
___ 02:52PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 02:15PM URINE Color-Straw Appear-CLEAR Sp ___
___ 02:15PM URINE Blood-NEG Nitrite-NEG Protein-10* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NORMAL pH-7.0 
Leuks-NEG
___ 02:15PM URINE RBC-1 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-1
___ 02:15PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-POS* oxycodn-NEG mthdone-NEG fentnyl-NEG
___ 2:15 pm URINE
   URINE CULTURE (Pending): 

 
Brief Hospital Course:
___ woman with PMH of chronic left leg deep venous 
thrombosis since ___ for which her hematologist has recommended 
indefinite anticoagulation (she has previously had elevated beta 
2 glycoprotein, but does not carry a diagnosis of APLS), 
hypertension, hyperlipidemia, prediabetes, Ménière's disease of 
the right ear, bilateral sensorineural hearing loss, and 
bilateral cataracts presenting for evaluation of right lower 
facial weakness. Initial examination also concerning for subtle 
right upper extremity weakness, resolved on ___ 
examination. MRI brain without evidence of acute infarct on 
preliminary review, and examination not consistent with 
peripheral facial nerve injury in light of forehead sparing and 
symmetric blink rate (though Lyme serologies were obtained, 
pending at time of discharge). Absence of marked ipsilateral 
hearing change, vestibulopathy, or rash reduced suspicion for 
Ramsay-Hunt Syndrome. Symptom onset was associated with 
headache, though latter without migrainous features. Overall 
etiology of central-pattern facial weakness unclear, though low 
suspicion for underlying infarct (and associated rivaroxaban 
failure), particularly with note made of contralateral platysma 
overactivation during facial examination.

Parenthetically, following discussion with the ___ pharmacy, 
ranitidine was held during this hospitalization in light of 
recent manufacturer recalls and replaced with famotidine; 
consideration may be given to alternate agents in the outpatient 
setting.

TRANSITIONAL ISSUES
1. Outpatient PCP ___ to ensure symptom resolution; 
consider referral to ___ Neurology for persistent symptoms.
2. Follow up Lyme serologies.
3. Consider lubricating eye drops in the right eye for 
persistent symptoms.
4. Consider transitioning ranitidine as above.
5. Follow up coagulation studies (incidental note made of 
elevated PTT, INR).
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. cromolyn 4 % ophthalmic (eye) QID 
2. Desonide 0.05% Cream 1 Appl TP DAILY 
3. Fluorometholone 0.1% Ophth Susp. 1 DROP BOTH EYES BID 
4. Pravastatin 20 mg PO QPM 
5. Ranitidine 300 mg PO BID 
6. Rivaroxaban 20 mg PO DAILY 
7. Triamterene-HCTZ (37.5/___) 1 CAP PO DAILY 
8. Verapamil SR 180 mg PO Q12H 

 
Discharge Medications:
1.  cromolyn 4 % ophthalmic (eye) QID  
2.  Desonide 0.05% Cream 1 Appl TP DAILY  
3.  Fluorometholone 0.1% Ophth Susp. 1 DROP BOTH EYES BID  
4.  Pravastatin 20 mg PO QPM  
5.  Rivaroxaban 20 mg PO DAILY  
6.  Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY  
7.  Verapamil SR 180 mg PO Q12H  
8. HELD- Ranitidine 300 mg PO BID  This medication was held. Do 
not restart Ranitidine until speaking with your primary care 
doctor.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right facial weakness
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ for evaluation of right facial 
weakness. An MRI of your brain reassuringly did not show signs 
of a stroke, and your examination did not show signs of injury 
or infection of your facial nerve. Your symptoms improved 
somewhat prior to leaving the hospital. Please follow up with 
your primary care provider within one week of discharge to 
ensure that your symptoms resolve; your primary care provider 
can also refer you to a neurologist for further ___.

It was a pleasure taking care of you at ___.

Sincerely,
___ Neurology
 
Followup Instructions:
___